US06432981B1
The partially purified 1-(benzyloxycarbonyl)-4-(3,3-difluoro-3-phenylprop-1-yl)piperidine (247 mg) was hydrogenated at atmospheric pressure in 95% ethanol (4.0 mL) containing 20% Pd(OH)2/C (60 mg). After 6 h, additional 20% Pd(OH)2/C (32 mg) was added and the hydrogenation was continued for another 16 h. The mixture was filtered and the catalyst was washed with 95% ethanol. Evaporation of the filtrate gave 164 mg of crude 4-(3,3-difluoro-3-phenylprop-1-yl)piperidine as a colorless syrup.

reactant | 1-(benzyloxycarbonyl)-4-(3,3-difluoro-3-phenylprop-1-yl)piperidine | 247 mg | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CCC(C1=CC=CC=C1)(F)F | C22H25F2NO2
solvent | ethanol | 4.0 mL | C(C)O | C2H6O
catalyst | Pd(OH)2/C | 60 mg | [OH-].[OH-].[Pd+2]
catalyst | Pd(OH)2/C | 32 mg | [OH-].[OH-].[Pd+2]
product | 4-(3,3-difluoro-3-phenylprop-1-yl)piperidine | 164 mg | FC(CCC1CCNCC1)(C1=CC=CC=C1)F | C14H19F2N
